US07018988B2
(2S,4EZ)-4-(methoxyimino)-N-(1-naphthylmethyl)-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, phenoxyacetyl chloride, and 1-naphthylmethylamine the title compound was obtained in 99% purity by LC/MS. MS(ESI+): m/z=432.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | 1-naphthylmethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | (2S,4EZ)-4-(methoxyimino)-N-(1-naphthylmethyl)-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide | CON=C1C[C@H](N(C1)C(COC1=CC=CC=C1)=O)C(=O)NCC1=CC=CC2=CC=CC=C12 | C25H25N3O4
